US09260450B2
Step ii: 4-ethyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-yl trifluoromethanesulfonate
A solution of 4-ethyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-ol (6.40 g) in CH2Cl2 (65 mL) and Et3N (4.8 mL) was cooled at −70° C. Triflic anhydride (Tf2O) (5.83 mL) was added over 10 minutes while maintaining the temperature below −50° C. The reaction is exothermic. The reaction was stirred for an additional 30 minutes at less than −50° C. and then warmed to room temperature. The reaction was then cooled at to less than −50° C. and an additional portion of Tf2O (1.1 mL; 20%) and Et3N (1.0 mL; 20%) was added. After an hour incubation, then reaction was concentrated to remove most of the CH2Cl2. The reaction was loaded directly onto an Analogix SuperFlash SF40-150; using a Horizon auto fraction collector; EtOAc/heptane (20/80). The column was washed with EtOAc/heptane (30/70). Fractions containing the desired product were collected to provide 6.98 g as a pale yellow liquid.

reactant | 4-ethyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-ol | 6.40 g | C(C)C=1C=NN(C1O)C1=NC(=CC=C1)C | C11H13N3O
reactant | Triflic anhydride | 5.83 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Tf2O | 1.1 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 4.8 mL | CCN(CC)CC | C6H15N
solvent | Et3N | 1.0 mL | CCN(CC)CC | C6H15N
product | 4-ethyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=NN1C1=NC(=CC=C1)C)CC)(F)F | C12H12F3N3O3S
